US06268363B1
49-3) 3-(Naphthalen-1-yl)carbonyl-1H-pyrrole
901 mg(5 mmol) of the compound prepared in Preparation 49-2) and 1.01 g(5.5 mmol) of tosylmethylisocyanide were dissolved in 10 ml of tetrahydrofuran. 555 mg(5.5 mmol) of potassium t-butoxide dissolved in 10 ml of tetrahydrofuran was slowly added thereto and the mixture was stirred for 30 minutes. 10 ml of water was added to the reaction solution to stop the reaction and the solvent was removed under reduced pressure. 20 ml of water was added to the residue and the resulting mixture was extracted with ethyl acetate, washed with aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was subjected to silica gel column chromatography(eluent: ethyl acetate/hexane=1/3, v/v) to obtain 884 mg(4 mmol, Yield 80%) of the title compound.

reactant | tosylmethylisocyanide | 5.5 mmol, 1.01 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium t-butoxide | 5.5 mmol, 555 mg | CC(C)([O-])C.[K+]
reactant | water | 10 ml | O | H2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(Naphthalen-1-yl)carbonyl-1H-pyrrole | 4 mmol, 884 mg, Yield 80% | C1(=CC=CC2=CC=CC=C12)C(=O)C1=CNC=C1 | C15H11NO
